US06603046B1
1.76 g (10 mmol) of 4-allyloxyacetophenone and 1.66 g (10 mmol) of 3,5-dimethoxy-benzaldehyde were dissolved in 10 ml of dry freshly distilled ethanol under an inert atmosphere (argon), and the solution was admixed with 100 mg of sodium hydroxide and left under stirring for 18 h. The reaction mixture was filtered to give 2.96 g (99%) of 3,5-dimethoxy-4′-prop-2-enyloxychalcone which was recrystallized from methanol, m.p. 88.5-90° C.

reactant | 4-allyloxyacetophenone | 10 mmol, 1.76 g | CC(=O)C1=CC=C(C=C1)OCC=C | C11H12O2
reactant | 3,5-dimethoxy-benzaldehyde | 10 mmol, 1.66 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
product | 3,5-dimethoxy-4′-prop-2-enyloxychalcone | 2.96 g, 99% | COC=1C=C(C=C(C1)OC)C=CC(=O)C1=CC=C(C=C1)OCC=C | C20H20O4
